US05576321
Preparation of 3-[4-(6-trifluoromethyl-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)propane
The title compound was prepared in a fashion similar to that described in Example 192 from 6-trifluoromethyl-3-(piperidin-4-yl)-1H-indole (0.60 g, 2.2 mmol), 1-chloro-3-(1H-indole-4-oxy)propane (0.65 g, 2.2 mmol) and potassium carbonate (0.46 g, 3.4 mmol). The product was isolated as a white foam. Yield 165 mg (17%). mp 92°-97° C. FDMS m/e=442 (M+ of free base).

reactant | 6-trifluoromethyl-3-(piperidin-4-yl)-1H-indole | 2.2 mmol, 0.60 g | FC(C1=CC=C2C(=CNC2=C1)C1CCNCC1)(F)F | C14H15F3N2
reactant | 1-chloro-3-(1H-indole-4-oxy)propane | 2.2 mmol, 0.65 g | ClCCCOC=1C=2C=CNC2C=CC1 | C11H12ClNO
reactant | potassium carbonate | 3.4 mmol, 0.46 g | C([O-])([O-])=O.[K+].[K+]
product | 3-[4-(6-trifluoromethyl-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)propane | FC(C1=CC=C2C(=CNC2=C1)C1CCN(CC1)CCCOC1=C2C=CNC2=CC=C1)(F)F | C25H26F3N3O
